
.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100

* input coupling capacitor
Ci in2 base 0.1m

* bias circuit
R1 vcc base 80k
R2 base 0 20k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 1k
Re emit 0 100

* bypass capacitor
Cb emit 0 1m


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 100

* output coupling capacitor
Co emit2 out 1u

* load
RL out 0 8

.op
.end

.control

op



* checking if transistorns in F.A.R

echo "npn_TAB"
let V_CE=v(coll)-v(emit)
echo "V_CE = $&V_CE"
let V_BE=v(base)-v(emit)
echo "V_BE = $&V_BE"
if (V_CE>V_BE)
echo "V_CE>V_BE hence operating in the F.A.R"
else
echo "V_CE>V_BE hence not operating in the F.A.R"
endif
echo "npn_END"

echo "pnp_TAB"
let V_EC=v(emit2)
echo "V_CE = $&V_EC"
let V_EB=v(emit2)-v(coll)
echo "V_EB = $&V_EB"
if (V_EC>V_EB)
echo "V_EC>V_EB hence operating in the F.A.R"
else
echo "V_EC>V_EB hence not operating in the F.A.R"
endif
echo "pnp_END"


* time analysis
tran 1e-5 1e-2
plot v(coll)
hardcopy vo1.ps vdb(coll)


* frequency analysis
ac dec 10 10 100MEG
plot vdb(coll)
plot vp(coll)
hardcopy vo1f.ps vdb(coll)


* gain?
plot vdb(out)
plot vp(out)
hardcopy vo2f.ps vdb(out)


* input impedance in kohm
plot abs(v(in2)[40]/vin#branch[40]/(-1000))
print v(in2)[40]/vin#branch[40]/(-1000)

* output impedance in the other net file


echo "****************************"
echo "merit"

meas ac gain MAX vdb(out) from=10 to=100MEG

print out

* bandwidth aka bdwth

let gain_3 = gain - 3.0

print gain_3


meas ac f1 WHEN vdb(out) = gain_3

meas ac f2 WHEN vdb(out) = gain_3 CROSS=LAST


let bdwth = f2 - f1

let cost = 1000 + 1 + 0.1 + 80 + 20 + 1 + 0.1 + 0.1 + 0.008 + 2 * 0.1

let merit = gain * bdwth / (cost * f1)


print f1 f2

print bdwth

print cost

print merit

echo "****************************"


* TABS

echo "Zin_TAB"

echo "Zin_END"




echo "measurements_TAB"
let Zin_re= Re(v(in2)[40]/i(Vin)[40])
let Zin_im= Im(v(in2)[40]/i(Vin)[40])
echo "Zin = $&Zin_re + j $&Zin_im"
echo "Vgain = $&gain"
echo "Bandwidth = $&bdwth"
echo "1st_Cutoff_Freq = $&f1"
echo "2nd_CutoFF_Freq = $&f2"
echo "measurements_END"

* ou sera vin#branch[40] ??


.endc 


